US05910508
(f) Preparation of ethyl (E,E,Z)-7-{3-[5-(tert-butyldimethylsilyloxy)-pentyloxy]-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl}-3-methyl-2,4,6,-octatrienoate
A 2.5M solution of BuLi in hexane (1.12 mmol) was added dropwise to a solution of diisopropylamine (387 μl) in a 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (DMPU)/THF (10 ml/10 ml) mixture at -20° C. The mixture was stirred for 30 min at -20° C., and triethyl 3-methyl-4-phosphonocrotonate (0.68 ml) was then added. The mixture was stirred for 1 h at -20° C. and was added to a solution of (Z)-3-{3-[5-(tert-butyldimethylsilyloxy)pentyloxy]-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl}-2-butenal (1.1 g, 2.3 mmol) in THF (5 ml). The reaction medium was permitted to warm to room temperature and was then treated with ethyl acetate/water. After settling, the organic phase was separated and washed twice with water, dried over anhydrous magnesium sulfate and concentrated in a rotary evaporator under vacuum at 40° C. The desired compound was purified by flash chromatography on a silica column.

reactant | BuLi | [Li]CCCC
reactant | hexane | 1.12 mmol | CCCCCC | C6H14
reactant | diisopropylamine | 387 μl | C(C)(C)NC(C)C | C6H15N
reactant | triethyl 3-methyl-4-phosphonocrotonate | 0.68 ml | CCOC(=O)/C=C(\C)/CP(=O)(OCC)OCC | C11H21O5P
reactant | (Z)-3-{3-[5-(tert-butyldimethylsilyloxy)pentyloxy]-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl}-2-butenal | 2.3 mmol, 1.1 g | [Si](C)(C)(C(C)(C)C)OCCCCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)\C(=C/C=O)\C | C29H48O3Si
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate water | C(C)(=O)OCC.O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 10 ml | CN1C(N(CCC1)C)=O | C6H12N2O
product | ethyl (E,E,Z)-7-{3-[5-(tert-butyldimethylsilyloxy)-pentyloxy]-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl}-3-methyl-2,4,6,-octatrienoate | [Si](C)(C)(C(C)(C)C)OCCCCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)\C(=C/C=C/C(=C/C(=O)OCC)/C)\C | C36H58O4Si
